US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-cyclopropyl-amino-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine and N-ethyl-diisopropylamine in dioxane at 90° C. to yield 2,4-bis-cyclopropylamino-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, light yellow solid; MS: [M+H]+376.

reactant | 4-chloro-2,6-bis-cyclopropyl-amino-pyrimidine-5-carbonitrile | ClC1=NC(N(C(=C1C#N)C1CC1)N)C1CC1 | C11H13ClN4
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,4-bis-cyclopropylamino-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | C1(CC1)NC1=NC(=C(C(=N1)NC1CC1)C#N)N1CCN(CC1)C1=CC=CC=C1 | C21H25N7
